US09227978B2
1-(2-((4,5-Dichloro-2-hydroxyphenyl)glycyl)-2,6-diazaspiro[3.4]octan-6-yl)prop-2-en-1-one
The mixture of 2-(4,5-dichloro-2-hydroxyphenylamino)acetic acid (47 mg, 0.2 mmol), 1-(2,6-diazaspiro[3.4]octan-6-yl)prop-2-en-1-one (40 mg, 0.2 mmol), EDCI.HCl (46 mg, 0.24 mmol), HOBt (32 mg, 0.24 mmol) and Et3N (0.61 mg, 0.6 mmol) in DMF (10 mL) was stirred at room temperature for 2 h. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed withed saturated NaHCO3 solution and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (DCM/MeOH=30:1) to afford the desired product (13 mg, 17% yield). 1H NMR (400 MHz, DMSO-d6) δ: 10.17 (s, 1H), 6.78 (s, 1H), 6.60-6.50 (m, 2H), 6.13 (dt, J=2.4, 16.4 Hz, 1H), 5.67 (dd, J=2.4, 10.4 Hz, 1H), 5.19 (dd, J=5.2, 10.0 Hz, 1H), 4.16-4.07 (m, 2H), 3.90-3.83 (m, 2H), 3.75-3.72 (m, 3H), 3.61-3.52 (m, 2H), 3.42-3.39 (m, 1H), 2.16-2.13 (m, 1H), 2.06-2.03 (m, 1H). ESI-MS m/z: 382.3 [M−H]−.

reactant | 2-(4,5-dichloro-2-hydroxyphenylamino)acetic acid | 0.2 mmol, 47 mg | ClC1=CC(=C(C=C1Cl)NCC(=O)O)O | C8H7Cl2NO3
reactant | 1-(2,6-diazaspiro[3.4]octan-6-yl)prop-2-en-1-one | 0.2 mmol, 40 mg | C1NCC12CN(CC2)C(C=C)=O | C9H14N2O
reactant | EDCI.HCl | 0.24 mmol, 46 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.24 mmol, 32 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 0.6 mmol, 0.61 mg | CCN(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(2-((4,5-Dichloro-2-hydroxyphenyl)glycyl)-2,6-diazaspiro[3.4]octan-6-yl)prop-2-en-1-one | 13 mg, 17% yield | ClC1=CC(=C(C=C1Cl)NCC(=O)N1CC2(C1)CN(CC2)C(C=C)=O)O | C17H19Cl2N3O3
